US07087273B2
In a 300 ml three neck flask, 5.2 g (31 mmol) of ethyl p-hydroxybenzoate, 4.7 g (34 mmol) of potassium carbonate anhydride, and 7.8 g (31 mmol) of the 3-[(4-bromobutoxy)methyl]-3-ethyloxetane were dissolved in 50 ml of dimethylformamide. After the solution remained turbid was heated to a temperature of 80° C. and stirred for 4 hours, the solvent was completely distilled out in a vacuum. To the resulting yellow oily substance were added 15 ml of a 7% sodium hydroxide aqueous solution and 15 ml of methanol. The mixture was refluxed for two and half hours. 1 N (normality) of hydrochloric acid was added to the mixture such that the pH is adjusted to about 3. The resulting white precipitate was filtered and dried in a vacuum thereby obtaining 8.6 g (28 mmol) of 4-[7-(3-ethyl-3-oxetanyl)-1,6-dioxaheptyl]benzoic acid (yield: 89%, identified with 1H-NMR). The resulting compound was no more purified and used in the following reaction.

reactant | ethyl p-hydroxybenzoate | 31 mmol, 5.2 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 3-[(4-bromobutoxy)methyl]-3-ethyloxetane | 31 mmol, 7.8 g | BrCCCCOCC1(COC1)CC | C10H19BrO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-[7-(3-ethyl-3-oxetanyl)-1,6-dioxaheptyl]benzoic acid | 28 mmol, 8.6 g, yield: 89% | C(C)C1(COC1)COCCCCOC1=CC=C(C(=O)O)C=C1 | C17H24O5
